US09169203B2
Step 1-hexadecyl 2-((2-hydroxy-4-(methylthio)butanoyl)oxy)-4-(methylthio)butanoate.
To 2-hydroxy-4-(methylthio)butanoic acid (Alimet 88%) (10.0 g, 58.6 mmol) was added 1-hexadecanol (8.55 g, 35.3 mmol), p-toluenesulfonic acid (0.56 g, 2.9 mmol) in toluene (50 mL) in a round bottom flask that was fitted with a Dean Stark trap and reflux condenser. The resulting mixture was heated to reflux with removal of water overnight. The reaction was cooled to room temperature and then diluted with ethyl acetate (65 mL) and washed with sat. NaHCO3 (3×30 mL), water (1×30 mL), dried over magnesium sulfate, filtered and evaporated to give a dark brown oil. The oil was purified by silica gel chromatography with 0-30% ethyl acetate/heptane to give a light yellow oil (3.2 g, 22%). 1H NMR (500 MHz, DMSO-d6) δ ppm 0.85 (t, J=6.68 Hz, 3 H) 1.10-1.35 (m, 26 H) 1.48-1.64 (m, 2 H) 1.76-1.98 (m, 2 H) 1.99-2.12 (m, 8 H) 2.50-2.66 (m, 4 H) 4.01-4.18 (m, 2 H) 4.17-4.32 (m, 1 H) 5.00-5.15 (m, 1 H) 5.54-5.72 (m, 1 H).

reactant | 2-hydroxy-4-(methylthio)butanoic acid | 58.6 mmol, 10.0 g | OC(C(=O)O)CCSC | C5H10O3S
reactant | 1-hexadecanol | 35.3 mmol, 8.55 g | C(CCCCCCCCCCCCCCC)O | C16H34O
reactant | p-toluenesulfonic acid | 2.9 mmol, 0.56 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 65 mL | C(C)(=O)OCC | C4H8O2
product | 1-hexadecyl 2-((2-hydroxy-4-(methylthio)butanoyl)oxy)-4-(methylthio)butanoate | 3.2 g, 22% | OC(C(=O)OC(C(=O)OCCCCCCCCCCCCCCCC)CCSC)CCSC | C26H50O5S2
